US06642389B2
b] 3-Methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde
4-Hydroxy-3-methylbenzaldehyde (9 g, 66.10 mmol), methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester [PCT Int. Appl. (2000) WO0008002] (22.5 g, 80 mmol), KOH (80 mmol, 4.48 g) and tetrabutylammonium-hydrogensulfate (2 g) in 400 ml toluene/100 ml water were heated at 80° C. during 17 hours. The reaction mixture was then cooled to 0° C., washed with water/ice and brine, the aqueous layer extracted with tBuOMe, the combined organic layers dried over Na2SO4 and evaporated. The crude product was purified by chromatography (SiO2; AcOEt/heptane) and the product was crystallized from CH2Cl2/heptane to yield 15 g (72%) of the title compound as a white solid.

reactant | 4-Hydroxy-3-methylbenzaldehyde | 66.10 mmol, 9 g | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | 80 mmol, 22.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C | C13H15NO4S
reactant | KOH | 80 mmol, 4.48 g | [OH-].[K+]
catalyst | tetrabutylammonium hydrogensulfate | 2 g | C(CCC)[N+](CCCC)(CCCC)CCCC.S(=O)(=O)(O)[O-]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | 15 g, 72% | CC=1C=C(C=O)C=CC1OCCC=1N=C(OC1C)C1=CC=CC=C1 | C20H19NO3
